US08455475B2
2-(Pyridin-4-yl)-2,8-diazaspiro[4.5]decane dihydrochloride (AMN-33)
Acetyl chloride (5 eq.) was added to an ice-cold solution of tert-butyl 2-(pyridin-4-yl)-2,8-diazaspiro[4.5]decane-8-carboxylate (3.78 mmol, 1 eq.) in ethanol (14 ml). The reaction mixture was stirred at room temperature overnight. The solvent was concentrated in vacuo and the residue was dissolved in ethanol/acetone (2:1, 30 ml). The white solid which precipitated was filtered out, washed with diethyl ether and dried in vacuo. Yield: 98%

reactant | Acetyl chloride | 5 eq. | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 2-(pyridin-4-yl)-2,8-diazaspiro[4.5]decane-8-carboxylate | 3.78 mmol, 1 eq. | N1=CC=C(C=C1)N1CC2(CC1)CCN(CC2)C(=O)OC(C)(C)C | C18H27N3O2
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 2-(Pyridin-4-yl)-2,8-diazaspiro[4.5]decane dihydrochloride | Yield: 98% | Cl.Cl.N1=CC=C(C=C1)N1CC2(CC1)CCNCC2 | InChI=1S/C13H19N3.2ClH/c1-6-14-7-2-12(1)16-10-5-13(11-16)3-8-15-9-4-13;;/h1-2,6-7,15H,3-5,8-11H2;2*1H
